US07514566B2
To a 25 mL round-bottom flask, was added 5-bromo-1H-indazol-3-amine (2.0 g, 9432 μmol), 2.0 M iodomethane in tert-butyl methyl ether (587 μL, 9432 μmol), 1.5 g of Na2CO3, and 5 mL of DMF. The reaction mixture was heated to 80° C. for 6 hours. The reaction mixture was then diluted with 30 mL of water and extracted twice with 50 mL of EtOAc. The organic layers were combined, concentrated, and purified by a silica gel column chromatography separation on an ISOC instrument, eluting with 0-60% EtOAc in hexane to give 5-bromo-N,N-dimethyl-1H-indazol-3-amine (45 mg, 2.0% yield), MS m/z: 241 (M+1); and 5-bromo-N-methyl-1H-indazol-3-amine (550 mg, 26% yield), MS m/z: 227 (M+1).

reactant | 5-bromo-1H-indazol-3-amine | 9432 μmol, 2.0 g | BrC=1C=C2C(=NNC2=CC1)N | C7H6BrN3
reactant | iodomethane | 2.0 M | IC | CH3I
reactant | tert-butyl methyl ether | 9432 μmol, 587 μL | COC(C)(C)C | C5H12O
reactant | Na2CO3 | 1.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | 5-bromo-N,N-dimethyl-1H-indazol-3-amine | 45 mg, 2.0% yield | BrC=1C=C2C(=NNC2=CC1)N(C)C | C9H10BrN3
